* Z:\mnt\design.r\spice\examples\3030.asc
XU1 OUT1 N002 0 N001 IN IN IN IN OUT2 N005 N004 N003 N006 LT3030
V1 IN 0 PWL(0 0 1 2.5)
R1 IN N003 1Meg
R2 IN N006 1Meg
C1 OUT1 N001 10n
R3 OUT1 N002 113K
R4 N002 0 237K
C2 OUT1 0 10µ V=6.3 Irms=0 Rser=0.001 Lser=0 mfg="TDK" pn="C3216X5ROJ106M" type="X5R"
Rload1 OUT1 0 2.4
C3 OUT2 N004 10n
R5 OUT2 N005 54.9K
R6 N005 0 237K
C4 OUT2 0 3.3µ V=6.3 Irms=0 Rser=0.006 Lser=0 mfg="TDK" pn="C2012X5ROJ335K" type="X5R"
Rload2 OUT2 0 6
.tran 2
.lib LT1763.lib
.backanno
.end
